US07105544B2
N-[4-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE
Example 148 was prepared from N-(3-bromopropyl)-2,2-diphenylacetamide and 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide according to the procedures described in Scheme 14: ESMS m/e: 498.3 (M+H)+.

reactant | N-(3-bromopropyl)-2,2-diphenylacetamide | BrCCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H18BrNO
reactant | 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC=C(C=C1)C1CCNCC1)C | C15H22N2O
product | N-[4-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC=C(C=C1)NC(C(C)C)=O)C1=CC=CC=C1 | C32H39N3O2
